US07176242B2
Methyl 3-{[isopentyl(methyl)amino]methyl}-5-methylbenzoate
To methyl 3-(hydroxymethyl)-5-methylbenzoate prepared by the method in EXAMPLE SP-198, Step 2 in anhydrous methylene chloride at −30° C. is added methanesulfonyl chloride (601 μL, 7.8 mmol), then triethylamine (1.5 mL, 11.1 mmol), and the reaction is stirred at 0° C. 15 min. The resulting precipitate is filtered, and the filtrate is added to N-methylisoamylamine (2.1 mL, 16.7 mmol). The reaction stirred at room temperature 16 h. The solution is concentrated under reduced pressure, redissolved in ethyl acetate and washed with saturated sodium bicarbonate, brine, dried (sodium sulfate), filtered, and concentrated under reduced pressure. Purification by flash column chromatography (silica, 20% ethyl acetate/hexanes) provides the title compound. ESI MS m/z 264.2 [M+H]+.

reactant | methyl 3-(hydroxymethyl)-5-methylbenzoate | OCC=1C=C(C(=O)OC)C=C(C1)C | C10H12O3
reactant | methanesulfonyl chloride | 7.8 mmol, 601 μL | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 11.1 mmol, 1.5 mL | C(C)N(CC)CC | C6H15N
reactant | N-methylisoamylamine | 16.7 mmol, 2.1 mL | CNCCC(C)C | C6H15N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | Methyl 3-{[isopentyl(methyl)amino]methyl}-5-methylbenzoate | C(CC(C)C)N(C)CC=1C=C(C(=O)OC)C=C(C1)C | C16H25NO2
